US09284305B2
Synthesis of (R)-Lipoamide
A solution of lipoic acid (25.6 g, 124 mmol), N-hydroxysuccinimide (15.6 g, 136 mmol), and EDC (26.1 g, 136 mmol) in anhydrous CH2Cl2 (300 mL) was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate (500 mL) and washed with H2O (500 mL), saturated aqueous NaHCO3 (500 mL), saturated aqueous NaCl (500 mL) and dried (MgSO4). The drying agent was removed by filtration and the filtrate was concentrated to dryness giving the product as a yellow sold (35.4 g, 94%).

reactant | lipoic acid | 124 mmol, 25.6 g | C1CSS[C@@H]1CCCCC(=O)O | C8H14O2S2
reactant | N-hydroxysuccinimide | 136 mmol, 15.6 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | EDC | 136 mmol, 26.1 g
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | (R)-Lipoamide | C1CSS[C@@H]1CCCCC(=O)N | C8H15NOS2
